US08563565B2
Synthesis of 3-bromo-6-ethoxy-2,4-dimethylpyridine
A mixture of 5-bromo-4,6-dimethylpyridin-2-ol obtained in Preparation Example 23(1) (50 mg), ethyl iodide (2.0 mL) and silver carbonate (1.4 g) was stirred in a chloroform solvent (10 mL) at room temperature for 36 hours. The reaction mixture was subjected to silica gel pad and eluted with a mixed solvent of (ethyl acetate/n-heptane, 10%). The resulting solution was concentrated under reduced pressure to give the title compound (550 mg).

reactant | 5-bromo-4,6-dimethylpyridin-2-ol | BrC=1C(=CC(=NC1C)O)C | C7H8BrNO
reactant | ethyl iodide | 2.0 mL | C(C)I | C2H5I
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | silver carbonate | 1.4 g | C([O-])([O-])=O.[Ag+2]
product | 3-bromo-6-ethoxy-2,4-dimethylpyridine | 550 mg | BrC=1C(=NC(=CC1C)OCC)C | C9H12BrNO
